US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)quinoxaline-6-carboxylate (100 mg) in methanol (20 mL) was added sodium hydroxide (40 mg, 1.00 mmol) and water (1 mL). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted the pH value to 6 with hydrochloric acid (3 N) and the product was precipitated to afford 2-(4-fluorophenyl)-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (52 mg).

reactant | methyl 2-(4-fluorophenyl)-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)quinoxaline-6-carboxylate | 100 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C1CCOCC1)C)C(=O)OC | C22H22FN3O3
reactant | sodium hydroxide | 1.00 mmol, 40 mg | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-(4-fluorophenyl)-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)quinoxaline-6-carboxylic acid | 52 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C1CCOCC1)C)C(=O)O | C21H20FN3O3
